US04390699
14-Hydroxy-4-methoxy-N-methylmorphinan-6-one
To a solution of 2.2 g (7.66 mmol) 4,14-dihydroxy-4-methoxy-N-methylmorphinan-6-one in 50 ml dry DMF were added 2.12 g (15.34 mmol) anhydrous K2CO3 and 3.96 g (23.07 mmol) phenyltrimethylammonium chloride and this mixture was stirred at 90° C. (bath temperature) for 4 h. After cooling to room temperature, the mixture was filtered, washed with CHCl3 and evaporated (90° C. bath temperature). The residue was partitioned between ethyl acetate and water, the organic layer separated and washed with water, dried and evaporated to give 2.1 g of a crystalline residue. After recrystallization with ethanol 1.78 g (77%) of 14-hydroxy-4-methoxy-N-methylmorphinan-6-one, m.p. 191°-193°, [α]D26 --83.9° (C 0.88, CHCl3) were obtained.

reactant | 4,14-dihydroxy-4-methoxy-N-methylmorphinan-6-one | 7.66 mmol, 2.2 g | OC1(CC=CC=2C[C@@H]3[C@@]4(CCC(C[C@@]4(C12)CCN3C)=O)O)OC | C18H25NO4
reactant | K2CO3 | 15.34 mmol, 2.12 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | phenyltrimethylammonium chloride | 23.07 mmol, 3.96 g | [Cl-].C1(=CC=CC=C1)[N+](C)(C)C
product | 14-Hydroxy-4-methoxy-N-methylmorphinan-6-one | 2.1 g | O[C@@]12CCC(C[C@]13C=1C(=CC=CC1C[C@H]2N(CC3)C)OC)=O | C18H23NO3
